US06921763B2
A mixture of N1-(4-bromophenyl)-2-fluoro-4-(trifluoromethyl)-1-benzenecarbothioamide (2.50 g, 0.00663 mol), hydroxylamine hydrochloride (0.65 g, 0.00928 mol) and sodium bicarbonate (0.78 g, 0.00928 mol) was heated in absolute ethanol (25 mL) at reflux under nitrogen atmosphere for 14 hours. The reaction mixture was cooled to ambient temperature, the solvent was removed under reduced pressure and the residue partitioned between saturated solution of sodium bicarbonate in water (50 mL) and ethyl acetate (50 mL). The organic phase was washed with brine, dried with magnesium sulfate and concentrated. The residue was suspended in cold n-heptane and the precipitate was collected by filtration and dried to yield N1-(4-bromophenyl)-2-fluoro-4-(trifluoromethyl)-1-benzeneamidoxime (2.35 g, 0.00625 mol) as an off-white solid.

reactant | N1-(4-bromophenyl)-2-fluoro-4-(trifluoromethyl)-1-benzenecarbothioamide | 0.00663 mol, 2.50 g | BrC1=CC=C(C=C1)NC(=S)C1=C(C=C(C=C1)C(F)(F)F)F | C14H8BrF4NS
reactant | hydroxylamine hydrochloride | 0.00928 mol, 0.65 g | Cl.NO
reactant | sodium bicarbonate | 0.00928 mol, 0.78 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | N1-(4-bromophenyl)-2-fluoro-4-(trifluoromethyl)-1-benzeneamidoxime | 0.00625 mol, 2.35 g | BrC1=CC=C(C=C1)NC(C1=C(C=C(C=C1)C(F)(F)F)F)=NO | C14H9BrF4N2O
